US05102667
Triethylamine (1.4 cc) is added to a suspension of 2-(2-pyridyl)acetic acid hydrochloride (1.73 g) in dry dichloromethane (30 cc). The solution is cooled to +5° C. and then treated with N,N'-carbonyldiimidazole (1.62 g). The mixture is stirred for 15 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (3.27 g) and triethylamine (2.8 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred at 20° C. for 2 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in a mixture of ethyl acetate (100 cc) and water (75 cc). The organic phase is washed with water (50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from a mixture of acetonitrile (30 cc) and isopropyl ether (30 cc). (3aRS,7aRS)-7,7-diphenyl-2-[2-(2-pyridyl)acetyl]-4-perhydroisoindolone (1.6 g) is obtained in the form of white crystals melting at 195° C.

reactant | Triethylamine | 1.4 cc | C(C)N(CC)CC | C6H15N
reactant | 2-(2-pyridyl)acetic acid hydrochloride | 1.73 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 3.27 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-(2-pyridyl)acetyl]-4-perhydroisoindolone | 1.6 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=NC=CC=C1)=O)=O)C1=CC=CC=C1 | C27H26N2O2
